US06599917B1
d) 3-Phenyl-5-benzyl-6-methoxypyridazine
600 mg of 10% palladium carbon was added to a mixture of 1.58 g of 5-(α-acetoxybenzyl)-3-phenyl-6-methoxypyridazine, 2.0 ml of triethylamine and 10 ml of ethanol, and the mixture was subjected to hydrocracking in a hydrogen atmosphere. The catalyst was filtered off, and the solvent was removed. Then, the residue was subjected to NH-silica gel (Fuji Silicia) and eluted with ethyl acetate, to give 1.31 g of the target compound.

reactant | 5-(α-acetoxybenzyl)-3-phenyl-6-methoxypyridazine | 1.58 g | C(C)(=O)OC(C1=CC=CC=C1)C=1C=C(N=NC1OC)C1=CC=CC=C1 | C20H18N2O3
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 600 mg | [C].[Pd]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Phenyl-5-benzyl-6-methoxypyridazine | 1.31 g | C1(=CC=CC=C1)C=1N=NC(=C(C1)CC1=CC=CC=C1)OC | C18H16N2O
